US05519034
A mixture of (-)-1-[1-(2-bromophenyl)cyclobutyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline (1.85 g) [liberated from the dibenzoyl-(L)-tartrate salt (3.7 g)], acetonitrile (60 ml), 37-40% aqueous formaldehyde solution (1.8 ml) and sodium cyanoborohydride (0.46 g) was stirred for 15 minutes, then neutralised with glacial acetic acid and stirred for a further 45 minutes. The mixture was concentrated by evaporation and basified to pH 12 with dilute aqueous sodium hydroxide solution. The mixture was extracted with ethyl acetate, the extract yielding a gum which was purified via flash chromatography using a 1:2 mixture of ethyl acetate and petroleum ether as eluant to give (-)-1-[1-(2-bromophenyl)cyclobutyl]-6,7-dimethoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline, which had a specific optical rotation αD of -33.6°. Yield 1.6 g.

reactant | (-)-1-[1-(2-bromophenyl)cyclobutyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 1.85 g | BrC1=C(C=CC=C1)C1(CCC1)C1NCCC2=CC(=C(C=C12)OC)OC | C21H24BrNO2
reactant | dibenzoyl-(L)-tartrate | 3.7 g | C(C1=CC=CC=C1)(=O)[C@]([C@](C(=O)[O-])(O)C(C1=CC=CC=C1)=O)(O)C(=O)[O-]
reactant | formaldehyde | 1.8 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.46 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | (-)-1-[1-(2-bromophenyl)cyclobutyl]-6,7-dimethoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline | BrC1=C(C=CC=C1)C1(CCC1)C1N(CCC2=CC(=C(C=C12)OC)OC)C | C22H26BrNO2
